US08012956B2
(R)-Methyl 5-(sec-butylamino)-4-cyano-2-(trifluoromethyl)benzoate (45 mg, 0.150 mmol) was dissolved in DMSO (1 mL) and was treated with 30% aqueous hydrogen peroxide (0.05 mL) and potassium carbonate (6 mg, 0.043 mmol) at ambient temperature for 2 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous portion was extracted with ethyl acetate. The combined organic portion was dried over sodium sulfate, then filtered and concentrated to afford a yellow oil which was purified by column chromatography (silica gel, 10-40% ethyl acetate in hexanes) to afford (R)-methyl 5-(sec-butylamino)-4-aminocarbonyl-2-(trifluoromethyl)benzoate (27 mg, 0.085 mmol, 57% yield). (R)-M ethyl 5-(sec-butylamino)-4-aminocarbonyl-2-(trifluoromethyl)benzoate (27 mg, 0.085 mmol) was suspended in methanol (1 mL) and was treated with 1 M sodium hydroxide (0.2 mL, 0.2 mmol) at 45° C. for 1 h. Dichloromethane (0.5 mL) and 1M sodium hydroxide (0.2 mL, 0.2 mmol) was added and the mixture was stirred at 45° C. for a further 1.5 h. Dichloromethane (0.5 mL) and 1M sodium hydroxide (0.2 mL, 0.2 mmol) were added, and the mixture was stirred at 45° C. for a further 1 h and then at ambient temperature for 15 h. The reaction mixture was concentrated to afford an aqueous residue that was cooled in an ice bath, was acidified with 1N hydrochloric acid to pH ˜2, then extracted with ethyl acetate (2×). The organic portion was dried over sodium sulfate, then filtered and concentrated to provide 4-(aminocarbonyl)-5-{[(1R)-1-methylpropyl]amino}-2-(trifluoromethyl)benzoic acid (23 mg, 0.076 mmol, 89% yield). MS (EI) for C13H15F3N2O3: 305 (MH+).

reactant | (R)-M ethyl 5-(sec-butylamino)-4-aminocarbonyl-2-(trifluoromethyl)benzoate | 0.085 mmol, 27 mg | [C@@H](C)(CC)NC=1C(=CC(=C(C(=O)OC)C1)C(F)(F)F)C(=O)N | C14H17F3N2O3
reactant | sodium hydroxide | 0.2 mmol, 1 M, 0.2 mL | [OH-].[Na+]
reactant | Dichloromethane | 0.5 mL | ClCCl | CH2Cl2
reactant | sodium hydroxide | 0.2 mmol, 1M, 0.2 mL | [OH-].[Na+]
reactant | Dichloromethane | 0.5 mL | ClCCl | CH2Cl2
reactant | sodium hydroxide | 0.2 mmol, 1M, 0.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 4-(aminocarbonyl)-5-{[(1R)-1-methylpropyl]amino}-2-(trifluoromethyl)benzoic acid | 0.076 mmol, 23 mg, 89% yield | NC(=O)C1=CC(=C(C(=O)O)C=C1N[C@@H](CC)C)C(F)(F)F | C13H15F3N2O3
